US08252781B2
Benzyl 2-cyclooctylhydrazinecarboxylate and 2-bromoisobutyryl bromide were used for a similar reaction and treatment as Process 3 of Example 1, and benzyl 2-(2-bromoisobutyryl)-2-cyclooctylhydrazinecarboxylate was obtained as a pale yellow oil.

reactant | Benzyl 2-cyclooctylhydrazinecarboxylate | C1(CCCCCCC1)NNC(=O)OCC1=CC=CC=C1 | C16H24N2O2
reactant | 2-bromoisobutyryl bromide | BrC(C(=O)Br)(C)C | C4H6Br2O
product | benzyl 2-(2-bromoisobutyryl)-2-cyclooctylhydrazinecarboxylate | BrC(C(=O)N(NC(=O)OCC1=CC=CC=C1)C1CCCCCCC1)(C)C | C20H29BrN2O3
